US07495015B2
To a suspension of 5-(2-fluoro-phenoxy)-2-methyl-phenylamine (2.4 g, 11.04 mmol), acetic anhydride (3.36 g, 33.12 mmol) and potassium acetate anhydrous (1.10 g, 11.16 mmol) in benzene (36 mL) at 80° C. was added dropwise over 30 minutes isoamyl nitrite (2.22 mL, 16.56 mmol) and the reaction mixture was stirred at this temperature overnight. After cooling to room temperature, the precipitate formed was filtered and the filtrate was concentrated under vacuum and the residue treated with 5N HCl (4.5mL) then concentrated HCl (2.5 mL); the mixture was heated at 55° C. for 2.5 h then 60° C. for 15 min. The reaction was cooled to room temperature extracted into benzene (15 mL), the aqueous layer was basified with NH4OH the extracted into EtOAc (2×25 mL), the combined organic layers were dried over Na2SO4 filtered, concentrated and the residue was purified by flash chromatography eluting with Hex:EtOAc 7:3 to yield 1.8 g of 6-(2-fluoro-phenoxy)-1H-indazole: MS: 229 (M+H).

reactant | 5-(2-fluoro-phenoxy)-2-methyl-phenylamine | 11.04 mmol, 2.4 g | FC1=C(OC=2C=CC(=C(C2)N)C)C=CC=C1 | C13H12FNO
reactant | acetic anhydride | 33.12 mmol, 3.36 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 11.16 mmol, 1.10 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 16.56 mmol, 2.22 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | benzene | 36 mL | C1=CC=CC=C1 | C6H6
product | 6-(2-fluoro-phenoxy)-1H-indazole | 1.8 g | FC1=C(OC2=CC=C3C=NNC3=C2)C=CC=C1 | C13H9FN2O
